US09260435B2
Step 4: tert-Butyl (1-{4-[bromo(phenyl)acetyl]phenyl}cyclobutyl)carbamate [Int-1A]
A mixture of tert-butyl {1-[4-(phenylacetyl)phenyl]cyclobutyl}carbamate (5.0 g, 13.68 mmol, 1.0 eq) and pyridinium hydrobromide perbromide (4.38 g, 13.68 mmol, 1.0 eq) in THF (78 mL) was stirred at 0° C. for 30 minutes. The mixture was partitioned between EtOAc and water, and the organic phase washed with an aqueous sodium thiosulfate solution and brine, dried, filtered through a silicone coated filter paper, and concentrated in vacuo to give the crude title compound (5.44 g, 93% purity by UPLC-MS) which was used without further purification.

reactant | tert-butyl {1-[4-(phenylacetyl)phenyl]cyclobutyl}carbamate | 13.68 mmol, 5.0 g, 1.0 eq | C1(=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C23H27NO3
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | THF | 78 mL | C1CCOC1 | C4H8O
product | tert-Butyl (1-{4-[bromo(phenyl)acetyl]phenyl}cyclobutyl)carbamate | 5.44 g, 93% | BrC(C(=O)C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C23H26BrNO3
